US07427612B2
rac-(5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[2-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
To a solution of rac-4-(5-Methanesulfonyl-2-morpholin-4-yl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (250 mg, 0.54 mmol) in dichloromethane (2 ml) was added trifluoroacetic acid (1 ml) and the reaction mixture was stirred at room temperature for 30 min. After such time the reaction mixture was concentrated in vacuo, and the residue was dissolved in toluene (5 ml). To the solution were added 1-Bromo-4-trifluoromethyl-benzene (0.15 ml, 1.1 mmol), sodium-tert butylate (128 mg, 1.4 mmol), 2-(dicyclohexylphosphino)biphenyl (3.8.mg, 0.011 mmol), and tris(dibenzylidene-acetone)dipalladium-chloroform complex (5.5 mg, 0.005 mmol). The reaction mixture was then stirred for 16 hours at 80° C. After allowing to cool to room temperature the reaction mixture was concentrated in vacuo and purified by column chromatography (SiO2, 70 g, dichloromethane/methanol 0-5%) to give the title compound (83 mg, 30%). MS (m/e): 512.3 (M+H+)

reactant | rac-4-(5-Methanesulfonyl-2-morpholin-4-yl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)N1CCOCC1)=O)C | C22H33N3O6S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-Bromo-4-trifluoromethyl-benzene | 1.1 mmol, 0.15 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.011 mmol | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | rac-(5-Methanesulfonyl-2-morpholin-4-yl-phenyl)-[2-methyl-4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 83 mg, 30% | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1C(CN(CC1)C1=CC=C(C=C1)C(F)(F)F)C)N1CCOCC1 | C24H28F3N3O4S
